US04347374
Into a Fisher-Porter tube there was charged 5 g of (±) α-fluoromethylhistidine hydrochloride, 100 ml of methanol, 45 ml of methyl orthoformate and 9.7 g of naphthalene-1,5-disulfonic acid. The tube was sealed and heated in a steam bath overnight. The tube was cooled in an ice bath and the crystalline product (naphthalene-1,5 disulfonic acid salt of α-fluoromethylhistidine) was filtered and returned to the Fisher-Porter tube. Methanol (120 ml), methyl orthoformate (55 ml), and naphthalene-1,5 disulfonic acid (9.4 g) were added, the tube sealed and heated overnight in a steam bath, then cooled in an ice bath for ca. 5 hours. The crystals of (±)-methyl α-fluoromethylhistidinate 1,5-naphthalene disulfonate formed were filtered, washed with cold methanol and diethyl ether and dried in vacuo.

reactant | (±) α-fluoromethylhistidine hydrochloride | 5 g | Cl.FC[C@](N)(CC1=CNC=N1)C(=O)O
reactant | methyl orthoformate | 45 ml | C(OC)([O-])[O-]
reactant | naphthalene-1,5-disulfonic acid | 9.7 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | methanol | 100 ml | CO | CH4O
product | (±)-methyl α-fluoromethylhistidinate 1,5-naphthalene disulfonate | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.FC[C@](N)(CC1=CNC=N1)C(=O)OC | InChI=1S/C10H8O6S2.C8H12FN3O2/c11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16;1-14-7(13)8(10,4-9)2-6-3-11-5-12-6/h1-6H,(H,11,12,13)(H,14,15,16);3,5H,2,4,10H2,1H3,(H,11,12)/t;8-/m.1/s1
